US06187769B1
Synthesis of 4-(4-bromobutyl)-4,5-dihydro-3,7-dimethyl-1,4-benzoxazepin-5-one
950 mg of 4,5-dihydro-3,7-dimethyl-1,4-benzoxazepin-5-one was dissolved in 30 ml of acetone, 4.3 g (4 equivalents) of 1,4-dibromobutane and 2.1 g (3 equivalents) of potassium carbonate were added, then the resultant mixture was heated and refluxed for 10 hours.

reactant | 4,5-dihydro-3,7-dimethyl-1,4-benzoxazepin-5-one | 950 mg | CC1=COC2=C(C(N1)=O)C=C(C=C2)C | C11H11NO2
reactant | 1,4-dibromobutane | 4.3 g, 4 equivalents | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 2.1 g, 3 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-(4-bromobutyl)-4,5-dihydro-3,7-dimethyl-1,4-benzoxazepin-5-one | BrCCCCN1C(=COC2=C(C1=O)C=C(C=C2)C)C | C15H18BrNO2
